US08791119B2
To a mixture under nitrogen of 0.750 g (1.96 mmol) of N2-tert-butyl-7-bromo-6-cyclopropyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide, 0.446 g (2.94 mmol) of 4-methoxyphenylboronic acid (CAS 5720-07-0) and 5.8 ml (12 mmol) of aqueous 2M caesium carbonate solution in a mixture of 15 ml of toluene and 15 ml of ethanol under argon is added 0.64 g (0.78 mmol) of tetrakis(triphenyl-phosphine)palladium (CAS 14221-01-3), and the mixture is heated at 100° C. for 17 hours. After cooling, the mixture is filtered through Celite and the filtrate concentrated under reduced pressure. The residue is then taken up in dichloromethane, the organic phase is washed with water, dried over sodium sulfate and filtered, and the solution is concentrated under reduced pressure. The residue is chromatographed on a column of 15 g of silica gel, eluting with a mixture of 10 to 100% ethyl acetate in dichloromethane, to give 0.19 g of N2-tert-butyl-6-cyclo-propyl-7-(4-methoxyphenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide in the form of a white solid after crystallizing from a minimum amount of ethyl acetate, rinsing with diethyl ether and drying, and is identical to the compound obtained according to the procedure of Example 12.

reactant | N2-tert-butyl-7-bromo-6-cyclopropyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide | 1.96 mmol, 0.750 g | C(C)(C)(C)NC(=O)N1CC=2N(CC1)C(=C(C2C(=O)N)Br)C2CC2 | C16H23BrN4O2
reactant | 4-methoxyphenylboronic acid | 2.94 mmol, 0.446 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | caesium carbonate | 2M | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N2-tert-butyl-6-cyclo-propyl-7-(4-methoxyphenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide | 0.19 g | C(C)(C)(C)NC(=O)N1CC=2N(CC1)C(=C(C2C(=O)N)C2=CC=C(C=C2)OC)C2CC2 | C23H30N4O3
